* Auto-generated characterization deck for maj3x4
.title CHAR_maj3x4_tin0.0231ns_cl0.0005pf
* SkyWater/ngspice compatibility (must run before .lib; mirrors libs.tech/ngspice/.spiceinit).
.control
set ngbehavior=hsa
set skywaterpdk
set ng_nomodcheck
.endc

.lib "/home/auc/work/pdks/volare/sky130/versions/dd7771c384ed36b91a25e9f8b314355fc26561be/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.temp 25


.include "/home/auc/Standard-Cell-Library-Design-and-Characterization/spice/stdcells.lib.spice"

.param VDD=1.8
.param TIN=0.0231n
.param TSTART=5n
.param TPW=10n
.param TPER=25n
.param CLOAD=0.0005p

VDD vdd 0 DC {VDD}
VSS vss 0 DC 0

* Input pulse with 10-90 rise/fall ~= TIN
VA a 0 PULSE(0 {VDD} {TSTART} {TIN} {TIN} {TPW} {TPER})

* Non-active inputs (override as needed for multi-input cells)
VB b 0 DC 0
VC c 0 DC {VDD}

* DUT pin mappings:
*  - pin order defaults to (A Y VDD VSS)
*  - for multi-input cells, script emits a matching X line.
XDUT a b c y vdd vss maj3x4

CLOAD y 0 {CLOAD}

.tran 10p 30n

* Delay definitions: input @50%, output @50%  (VDD=1.8V TT -> 0.9V)
* Inverter-class arc: output rises on input fall (cell_rise); output falls on input rise (cell_fall).
* Slew definitions: output 0.2/0.8 VDD -> 0.36V / 1.44V
* Thresholds are numeric so Jinja does not parse { } as template syntax.
.measure tran cell_rise  trig v(a) val=0.9 fall=1 targ v(y) val=0.9 rise=1
.measure tran cell_fall  trig v(a) val=0.9 rise=1 targ v(y) val=0.9 fall=1
.measure tran rise_transition trig v(y) val=0.36 rise=1 targ v(y) val=1.44 rise=1
.measure tran fall_transition trig v(y) val=1.44 fall=1 targ v(y) val=0.36 fall=1

.end